US04252979
0.05 moles of 2,5-dichloro-3-nitro-terephthalic acid were refluxed in 2.11 moles of dimethyl sulphoxide (DMSO) at 189° C. for 70 minutes, after which the DMSO was removed by flash evaporation. The residue was dissolved in saturated sodium bicarbonate solution, which was extracted with chloroform to remove unwanted side-products. The aqueous phase was then acidified with 10% hydrochloric acid to complete precipitation and the resulting precipitate was filtered off, washed well with water and dried to give 88.5% crude yield of 2,5-dichloro-3-nitro-benzoic acid, melting at 214°-216° C.

reactant | 2,5-dichloro-3-nitro-terephthalic acid | 0.05 moles | ClC1=C(C(=O)O)C=C(C(=C1[N+](=O)[O-])C(=O)O)Cl | C8H3Cl2NO6
reactant | dimethyl sulphoxide | 2.11 moles | CS(=O)C | C2H6OS
product | 2,5-dichloro-3-nitro-benzoic acid | ClC1=C(C(=O)O)C=C(C=C1[N+](=O)[O-])Cl | C7H3Cl2NO4
